US08053457B2
[4-(2-Ethoxy-ethyl)-piperazin-1-yl]-acetonitrile
The title compound is synthesized by coupling of 4-(2-Ethoxy-ethyl)-piperazine (commercially available from ABCR GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=198.2; 1HNMR(DMSO-d6) 3.70 (s, 2H), 3.45 (q, 2H), 3.40 (q, 2H), 2.40-2.30 (m, 10H), 1.05 (t, 3H).

reactant | 4-(2-Ethoxy-ethyl)-piperazine | C(C)OCCN1CCNCC1 | C8H18N2O
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(2-Ethoxy-ethyl)-piperazin-1-yl]-acetonitrile | C(C)OCCN1CCN(CC1)CC#N | C10H19N3O
